US07612067B2
Preparation of 3-(5-bromo-3-methyl-furan-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
A CH2Cl2 solution (4 mL) of 8-(1-ethyl-propyl)-2,6-dimethyl-3-(3-methyl-furan-2-yl)-imidazo[1,2-b]pyridazine (32.4 mg, 0.11 mmol) is cooled to 0° C. under a CaSO4 drying tube and treated with NBS (20.1 mg, 0.11 mmol). After 15 minutes at 0° C., the mixture is warmed to room temperature. After an additional 10 minutes, the reaction mixture is poured into H2O (25 mL) and extracted into CH2Cl2 (2×25 mL). The combined organic extracts are washed with aq. brine, dried over Na2SO4, filtered, and concentrated. The crude product is purified by chromatography using hexane-ethyl acetate gradient (100% hexane to 10% ethyl acetate in hexane) to elute the title compound (26.3 mg, 64% yield) as a solid. ES-MS (m/z): calc'd for C18H22BrN3O: 375.1; found 376.2 (M+H); 1H NMR (400 mHz, CDCl3): δ 6.72 (s, 1H), 6.40 (s, 1H), 3.34 (m, 1H), 2.56 (s, 3H), 2.49 (s, 3H), 2.07 (s, 3H), 1.93-1.77 (m, 4H), 0.89 (t, J=7.5 Hz, 6H).

reactant | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
reactant | 8-(1-ethyl-propyl)-2,6-dimethyl-3-(3-methyl-furan-2-yl)-imidazo[1,2-b]pyridazine | 0.11 mmol, 32.4 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2OC=CC2C | C18H23N3O
reactant | NBS | 0.11 mmol, 20.1 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | H2O | 25 mL | O | H2O
product | 3-(5-bromo-3-methyl-furan-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 26.3 mg, 64% yield | BrC1=CC(=C(O1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3O
